US06074542
Synthesis of acryloyldiethanolamine (ADEA)
A mixture of 500 ml of absolute alcohol, 1.0 mol (101 g) triethylamine, 0.2 g p-methoxyphenol, and 1.0 mol (159 g) diethanolamine was dried over a molecular sieve (All molecular sieves should work.) and filtered through 0.45 μm membrane filter into a three-neck flask with additional funnel, thermometer and nitrogen inlets. The flask was cooled to -50° C. by immersing in dry ice/alcohol bath while under nitrogen atmosphere. 1.0 mol of acryloylchloride was added slowly to keep temperature above -48° C. One hour after adding all acryloyl chloride the temperature was allowed to increase to -20° C., triethylamine-HCl was precipitated and removed by filtration. The filtrate was pooled with 100 ml -20° C. ethanol and was passed through Amberlite IRA-900 column.

reactant | triethylamine | 1.0 mol, 101 g | C(C)N(CC)CC | C6H15N
reactant | p-methoxyphenol | 0.2 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | diethanolamine | 1.0 mol, 159 g | N(CCO)CCO | C4H11NO2
reactant | acryloylchloride | 1.0 mol | C(C=C)(=O)Cl | C3H3ClO
product | acryloyldiethanolamine | C(C=C)(=O)N(CCO)CCO | C7H13NO3
